US04971959
3-(3-Cyclopentoxy-4-methoxyphenyl)-E-propene-1-aldehyde
To a stirred solution of 0.12 g (0.48 mmol) of 3-cyclopentoxy-4-methoxyphenyl-E-propenyl alcohol in 20 mL of dry methylene chloride was added 0.5 g (6.1 mmol) of activated manganese dioxide in one portion. After stirring the brown suspension at room temperature for 6 hours, the mixture was filtered over Celite 545, eluted with two, 30 mL portions of chloroform, and concentrated. Crystallization of the crude product from hexane provided the desired, analytically pure product upon drying in vacuo.

reactant | 3-cyclopentoxy-4-methoxyphenyl-E-propenyl alcohol | 0.48 mmol, 0.12 g | C1(CCCC1)OC=1C=C(C=CC1OC)C/C=C/O | C15H20O3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 6.1 mmol, 0.5 g | [O-2].[O-2].[Mn+4]
product | 3-(3-Cyclopentoxy-4-methoxyphenyl)-E-propene-1-aldehyde | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=O | C15H18O3
